US05061701
g) 3α, 7β-dihydroxy-6α-fluoro-5β-cholanoic acid
A solution of 3α-hydroxy-6α-fluoro-7-keto-5β-cholanoic acid (0.42 g, 1.02 mmoles) in tetrahydrofuran (44 ml) was added with sodium borohydride (0.165 g, 4.36 mmoles) in methanol (11 ml) and the resulting mixture was left to react for one hour under magnetic stirring. Then the reaction mixture was diluted with ethyl acetate (20 ml), added with water (20 ml) and acidified with 10% hydrochloric acid (10 ml). The organic phase was separated, the aqueous phase was extracted with methylene chloride (3×20 ml); the combined organic phases were washed with brine (1×30 ml) and dried over sodium sulfate. After evaporating the solvent, the residue (0.42 g) was subjected to flash chromatography on silica, eluting with methylene chloride/methanol 98:2, to obtain 0.03 g of the starting product and 0.16 g of the title product (41%), the structure of which was confirmed by 1H-NMR, 13C-NMR, 19F-NMR and mass spectroscopies. mp 198-201° C.; IR (CHCl3) 1725 (C=O); 1H-NMR (200 MHz, CDCl3 +CD3OD) 0.7 (s, 3H, 18-CH3), 0.9-0.95 (m, 6H, 19-CH3, 21-CH3), 3.38 (m, 1H, 6-H), 3.7 (m, 2H, 3H, 7-H); 13C-NMR (200 MHz, CDCl3 +CD3OD) 75.43 C3, 79.199 C7, 95.45 C6. 176.24 (--COOH); 19F-NMR(CDCl3 +CD3OD) inner standard C6F6, φ-5.4; m/z 391 (9.18%), 390 (34.28%), 354.4 (2.64%). C24H39OF4.

reactant | 3α-hydroxy-6α-fluoro-7-keto-5β-cholanoic acid | 1.02 mmoles, 0.42 g | O[C@H]1C[C@H]2[C@H](C([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)=O)F | C24H37FO4
reactant | sodium borohydride | 4.36 mmoles, 0.165 g | [BH4-].[Na+]
reactant | water | 20 ml | O | H2O
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | tetrahydrofuran | 44 ml | O1CCCC1 | C4H8O
solvent | methanol | 11 ml | CO | CH4O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3α, 7β-dihydroxy-6α-fluoro-5β-cholanoic acid | 0.16 g, 41% | O[C@H]1C[C@H]2[C@H]([C@@H]([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O)F | C24H39FO4
